US07268151B2
2-{2-Methoxy-4-[(Z)-2-nitroethenyl]phenyl}pyridine
A solution of 1-(3-methoxy4-pyridin-2-ylphenyl)-2-nitroethanol (290 mg, 1.06 mmol) in anhydrous dichloromethane (5 mL) was treated with triethylamine (0.24 mL, 1.69 mmol), followed by methanesulfonyl chloride (0.10 mL, 1.27 mmol), 1 hr later, the mixture was partitioned between sat. NaHCO3 (10 mL) and dichloromethane (20 mL). The phases were separated and the aqueous layer was extracted with dichloromethane (3×10 mL). The combined organic layers were dried (MgSO4), filtered and concentrated to afford a yellow solid.

reactant | 1-(3-methoxy4-pyridin-2-ylphenyl)-2-nitroethanol | 1.06 mmol, 290 mg | COC=1C=C(C=CC1C1=NC=CC=C1)C(C[N+](=O)[O-])O | C14H14N2O4
reactant | triethylamine | 1.69 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.27 mmol, 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-{2-Methoxy-4-[(Z)-2-nitroethenyl]phenyl}pyridine | COC1=C(C=CC(=C1)\C=C/[N+](=O)[O-])C1=NC=CC=C1 | C14H12N2O3
